US09353066B2
p-Toluenesulfonic acid (21.46 mg, 0.113 mmol) and 2-chloro-4-(trifluoromethyl)pyrimidine (22.5 mg, 0.123 mmol) were added to a solution of 5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-amine (34 mg, 0.103 mmol) in dioxane (1 mL) and the reaction mixture was stirred for 14 hours at 100° C., then allowed to cool to room temperature. The reaction mixture was diluted with ethyl acetate (30 mL), then washed with saturated aqueous NaHCO3 (30 mL) followed by brine (30 mL). The aqueous layers were extracted with ethyl acetate (30 mL), then the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) provided N-{5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-yl}-4-(trifluoromethyl)pyrimidin-2-amine MS ESI calc'd. for C22H23F3N5O2S [M+H]+ 478, found 478. 1H NMR (400 MHz, Acetone): δ 9.18 (s, 1H); 8.82 (d, J=4.9 Hz, 1H); 7.71-7.66 (m, 4H); 7.47 (t, J=7.5 Hz, 2H); 7.37 (t, J=7.3 Hz, 1H); 7.23 (d, J=4.9 Hz, 1H); 7.02 (s, 1H); 3.43 (d, J=10.6 Hz, 8H); 2.91 (s, 3H).

reactant | p-Toluenesulfonic acid | 0.113 mmol, 21.46 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.123 mmol, 22.5 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-amine | 0.103 mmol, 34 mg | CS(=O)(=O)N1CCN(CC1)C=1C=C(C=C(C1)C1=CC=CC=C1)N | C17H21N3O2S
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-{5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-yl}-4-(trifluoromethyl)pyrimidin-2-amine | CS(=O)(=O)N1CCN(CC1)C=1C=C(C=C(C1)C1=CC=CC=C1)NC1=NC=CC(=N1)C(F)(F)F | C22H22F3N5O2S
